US07635699B2
To a stirred solution of tert-butyl 2-carbamoyl-5-(2,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyrimidine-6-carboxylate (60 mg, 0.14 mmol) in PhCH3 (3 mL) was added DMA-DMA (70 μL, 0.43 mmol). The reaction was heated to 90° C. for 2 h and was concentrated to afford the crude ester as a black oil. This crude product was dissolved in dioxane (2 mL) and AcOH (2 mL) and NH2OH.HCl (15 mg, 0.21 mmol) was added followed by NaOH (2N solution, 0.1 mL, 0.2 mmol). After heating to 90° C. for 2 h, the reaction was concentrated under reduced pressure and diluted with EtOAc. The organic layer was washed with H2O and brine prior to drying over anhydrous MgSO4. Filtration, concentration under reduced pressure and purification by silica gel chromatography afforded tert-butyl 5-(2,4-dichlorophenyl)-7-methyl-2-(3-methyl-1,2,4-oxadiazol-5-yl)imidazo[1,2-a]pyrimidine-6-carboxylate (38 mg, 58%) as a yellow solid.

reactant | tert-butyl 2-carbamoyl-5-(2,4-dichlorophenyl)-7-methylimidazo[1,2-a]pyrimidine-6-carboxylate | 0.14 mmol, 60 mg | C(N)(=O)C=1N=C2N(C(=C(C(=N2)C)C(=O)OC(C)(C)C)C2=C(C=C(C=C2)Cl)Cl)C1 | C19H18Cl2N4O3
reactant | DMA DMA | 0.43 mmol, 70 μL | CC(=O)N(C)C.CC(=O)N(C)C | 2C4H9NO
reactant | NH2OH.HCl | 0.21 mmol, 15 mg | NO.Cl
reactant | NaOH | 0.2 mmol, 2N, 0.1 mL | [OH-].[Na+]
solvent | PhCH3 | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | AcOH | 2 mL | CC(=O)O | C2H4O2
product | tert-butyl 5-(2,4-dichlorophenyl)-7-methyl-2-(3-methyl-1,2,4-oxadiazol-5-yl)imidazo[1,2-a]pyrimidine-6-carboxylate | 38 mg, 58% | ClC1=C(C=CC(=C1)Cl)C1=C(C(=NC=2N1C=C(N2)C2=NC(=NO2)C)C)C(=O)OC(C)(C)C | C21H19Cl2N5O3
